US07619086B2
Step 5: 4-(Aminomethyl)-1-(4-fluorobenzyl)piperidin-2-one
To a degassed solution of 1-(4-fluorobenzyl)-4-(nitromethyl)piperidin-2-one (1.4 g, 5.3 mmol) in absolute ethanol (80 mL) was added wet Raney nickel catalyst (1.4 g of a 50% weight slurry in water) which was washed to neutral pH with deionized water and absolute ethanol. The reaction mixture was shaken under an atmosphere of 55 psi of hydrogen for 16 hours. The product mixture was filtered through celite and the filtrate was concentrated under vacuum to afford the title compound as colorless viscous oil. 1H NMR (400 MHz, CDCl3) δ 7.24 (m, 2H), 7.01 (t, J=8.7 Hz, 2H), 4.64 (d, J=14.6 Hz, 1H), 4.44 (d, 1H), 3.23 (m, 2H), 2.65 (m, 2H), 2.16-1.28 (m).

reactant | 1-(4-fluorobenzyl)-4-(nitromethyl)piperidin-2-one | 5.3 mmol, 1.4 g | FC1=CC=C(CN2C(CC(CC2)C[N+](=O)[O-])=O)C=C1 | C13H15FN2O3
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | 4-(Aminomethyl)-1-(4-fluorobenzyl)piperidin-2-one | NCC1CC(N(CC1)CC1=CC=C(C=C1)F)=O | C13H17FN2O
